US09257658B2
Synthesis of 2-([1,1′-biphenyl]-3-yl)-4,5-dimethylpyridine
2-([1,1′-Biphenyl]-3-yl)-5-bromo-4-methylpyridine 11.5 g (35.5 mmol), 2,4,6-trimethyl-1,3,5,2,4,6-trioxatriborinane (5.57 g, 44.3 mmol), dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-3-yl)phosphine (1.2 g, 2.84 mmol), Pd2dba3 (0.650 g, 0.709 mmol) and potassium phosphate tribasic monohydrate, 250 mL toluene and 25 mL of water were placed in flask under nitrogen. The reaction mixture was degassed with nitrogen for 20 minutes and heated to reflux for 24 h. After cooling, the organic layer was separated and the aqueous layer extracted 3×50 mL with dichloromethane, dried over sodium sulfate and evaporated. The crude product was chromatographed on silica gel with 5% dichloromethane in hexane to give 8.0 g (87%) of the product. The product was confirmed by NMR and GC/MS.

reactant | 2-([1,1′-Biphenyl]-3-yl)-5-bromo-4-methylpyridine | 35.5 mmol, 11.5 g | C1(=CC(=CC=C1)C1=NC=C(C(=C1)C)Br)C1=CC=CC=C1 | C18H14BrN
reactant | 2,4,6-trimethyl-1,3,5,2,4,6-trioxatriborinane | 44.3 mmol, 5.57 g | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium phosphate tribasic monohydrate | O.[O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.709 mmol, 0.650 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-3-yl)phosphine | 2.84 mmol, 1.2 g | C1(CCCCC1)P(C=1C=C(C=CC1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | water | 25 mL | O | H2O
product | 2-([1,1′-biphenyl]-3-yl)-4,5-dimethylpyridine | 8.0 g, 87% | C1(=CC(=CC=C1)C1=NC=C(C(=C1)C)C)C1=CC=CC=C1 | C19H17N
